US05550132
2-(Dimethylamino)Ethyl Octanoate
2-Bromoethyl octanoate (0.2 g, 0.72 mmol) and 40% aqueous dimethylamine (4.2 mL, 36 mmol) were dissolved in acetonitrile (10 mL). The reaction mixture was stirred at room temperature for 48 hours. After removal of acetonitrile under vacuum, chloroform (30 mL) was added. The chloroform layer was extracted with potassium carbonate solution (20 mL, 0.01N) and water (2×20 mL), then was dried over sodium sulfate. The drying agent was suction filtered, and the chloroform removed in vacuo. The resulting material was applied to a silica gel column (discontinuous gradient of chloroform/methanol 95:5, 8:2 as eluent) affording 0.13 g pure product. Yield 77%; liquid; 1H NMR (CDCl3) 0.85-0.95 (t, CH3 (CH2)4), 1.20-1.40 (m, CH3 (CH2)4), 1.55-1.70 (m, CH2 CH2 CO), 2.25-2.40 (t, CH2 CH2 CO), 2.45-2.55 (s, (CH3)2 N) 2.75-2.85 (t, O CH2 CH2 N), 4.25-4.35 (t, O CH2 CH2 N).

reactant | 2-Bromoethyl octanoate | 0.72 mmol, 0.2 g | C(CCCCCCC)(=O)OCCBr | C10H19BrO2
reactant | dimethylamine | 36 mmol, 4.2 mL | CNC | C2H7N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(Dimethylamino)Ethyl Octanoate | 0.13 g, Yield 77% | C(CCCCCCC)(=O)OCCN(C)C | C12H25NO2
